US06632811B2
Step D:—Synthesis of 2-Aza-2-benzyl-4-amino-3-oxobicyclo[3.2.1]octane
A solution of 2-aza-2-benzyl-4-oximino-3-oxobicyclo[3.2.1]octane in 10 mL/mmole of ethanol and 5.8 mL/mmole of 3N HCl containing 0.5 g/mmole of 10% Pd/C was saturated with hydrogen gas to 45 psi. The mixture was shaken for 3 hours and then filtered through a layer of Celite. The filtrate was dried over sodium sulfate and concentrated under reduced pressure to afford the title compound as a solid (86% yield). This procedure is further described in E. Reimann, Arch. Pharm. 310, 102-109 (1977).

reactant | 2-aza-2-benzyl-4-oximino-3-oxobicyclo[3.2.1]octane | C(C1=NC=CC=C1)C1C2CCC(C(C1=O)=NO)C2 | C14H16N2O2
reactant | HCl | 3N | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2-Aza-2-benzyl-4-amino-3-oxobicyclo[3.2.1]octane | 86% yield | C(C1=NC=CC=C1)C1C2CCC(C(C1=O)N)C2 | C14H18N2O
